US05814653
N-ethyl-N'-(3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazol-6-yl)urea
To a solution of 10.0 mg (0.0437 mMol) 6-amino-3 (dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole in 3.0 mL dichloromethane were added 6.2 mg (0.0874 mMol) ethyl isocyanate. The reaction was mixed for 48 hours and to it were then added 0.15 gm (0.0874 mMol) aminomethylated polystyrene and the reaction mixed for an additional 18 hours. The reaction mixture was then filtered and the filtrate washed with 1N hydrochloric acid. The aqueous phase was washed several times with dichloromethane and was then made basic with dilute aqueous sodium hydroxide. The aqueous phase was then extracted several times with an equal volume of dichloromethane. These organic extracts were dried over sodium sulfate and then concentrated under reduced pressure to give 3.0 mg (23%) of the title compound.

reactant | 6-amino-3 (dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.0437 mMol, 10.0 mg | NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C14H19N3
reactant | ethyl isocyanate | 0.0874 mMol, 6.2 mg | C(C)N=C=O | C3H5NO
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
product | N-ethyl-N'-(3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazol-6-yl)urea | 3.0 mg, 23% | C(C)NC(=O)NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C17H24N4O
